US09334279B2
To a 7 mL dram vial equipped with a stir bar was added 5-bromo-2-fluoropyridine (500 mg, 2.84 mmol) and Pd(dppf)Cl2 (104 mg, 0.142 mmol). The vial was sealed with a septum cap and then placed under N2 atm. To the vial was added thiazol-2-ylzinc(II) bromide in THF (6 mL, 3.00 mmol). The vial was placed in a 65° C. heating block with stirring for 2.5 h. The reaction solution was transfered to a 125 mL separatory funnel and was diluted with sat. aq. NaHCO3 (50 mL) upon which a significant amount of a white solid precipitated. The mixture was extracted with EtOAc (2×50 mL). The combined organics were washed with brine (50 mL); dried over MgSO4; filtered; then concentrated in vacuo. The resulting was subjected to silica gel chromatography (hexanes:EtOAc) to afford 2-(6-fluoropyridin-3-yl)thiazole as a white solid, 303 mg (59%). 1H-NMR (500 MHz, CDCl3) δ 8.80 (d, J=2.5 Hz, 1H), 8.39 (ddd, J=8.5, 7.4, 2.5 Hz, 1H), 7.92 (d, J=3.3 Hz, 1H), 7.42 (d, J=3.3 Hz, 1H), 7.07-7.03 (m, 1H).

reactant | 5-bromo-2-fluoropyridine | 2.84 mmol, 500 mg | BrC=1C=CC(=NC1)F | C5H3BrFN
reactant | thiazol-2-ylzinc(II) bromide | [Br-].S1C(=NC=C1)[Zn+]
reactant | THF | 3.00 mmol, 6 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
catalyst | Pd(dppf)Cl2 | 0.142 mmol, 104 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(6-fluoropyridin-3-yl)thiazole | FC1=CC=C(C=N1)C=1SC=CN1 | C8H5FN2S
